US04129598
29 g (117 mmols) of 1-(3'-trifluoromethoxyphenyl)-2-nitro-propene, 46g (0.82 g atom) of iron powder, 0.6 g of ferric chloride and 120 ml of water are introduced into a 500 ml three-necked flask equipped with a mechanical stirrer, a condenser and a dropping funnel, and this mixture is heated at 80° C. 29 ml of concentrated hydrochloric acid are added dropwise, via the dropping funnel, with stirring, over the course of 5 hours, while the temperature is kept at 80° C. The reaction mixture is allowed to cool overnight. The ketone is then steam distilled. The distillate is extracted twice in succession with 100 ml of diethyl ether each time. The two ether extracts are combined, dried over sodium sulphate and filtered. The solvent is evaporated from the filtrate in vacuo on a water bath, and the residue is rectified. 14, 15 g (55 % yield) of 1-(3'-trifluoromethoxy-phenyl)-2-propanone are thus obtained as a liquid, b.p. 112° -118° C/18 mm.Hg, nD21°5 = 1.448.

reactant | 1-(3'-trifluoromethoxyphenyl)-2-nitro-propene | 117 mmols, 29 g | FC(OC=1C=C(C=CC1)C=C(C)[N+](=O)[O-])(F)F | C10H8F3NO3
reactant | hydrochloric acid | 29 ml | Cl | ClH
reactant | water | 120 ml | O | H2O
catalyst | iron | [Fe] | Fe
product | 1-(3'-trifluoromethoxy-phenyl)-2-propanone | 15 g, 55 % yield | FC(OC=1C=C(C=CC1)CC(C)=O)(F)F | C10H9F3O2
